US04258045
Following substantially the procedure of Example 1, Step B, 2,4-diamino-5-(3'-hydroxy-4'-methoxybenzyl)pyrimidine hydrochloride is treated with 3-(p-acetamidophenylsulfonyl)propyl chloride to afford 2,4-diamino-5-{3'-[3"-(p-acetamidophenylsulfonyl)propoxy]-4-methoxybenzyl}pyrimidine in 80% yield.

reactant | 2,4-diamino-5-(3'-hydroxy-4'-methoxybenzyl)pyrimidine hydrochloride | Cl.NC1=NC=C(C(=N1)N)CC1=CC(=C(C=C1)OC)O
reactant | 3-(p-acetamidophenylsulfonyl)propyl chloride | C(C)(=O)NC1=CC=C(C=C1)S(=O)(=O)CCCCl | C11H14ClNO3S
product | 2,4-diamino-5-{3'-[3"-(p-acetamidophenylsulfonyl)propoxy]-4-methoxybenzyl}pyrimidine | 80% yield | NC1=NC=C(C(=N1)N)CC1=CC(=C(C=C1)OC)OCCCS(=O)(=O)C1=CC=C(C=C1)NC(C)=O | C23H27N5O5S
